US07989433B2
A mixture of 3,3-difluoro-1-((2-methoxy-4-nitrophenoxy)methyl)cyclobutanol (32.0 g, 111 mmol) prepared in Part F and 110% Pd/C (2.0 g, 1.879 mmol) in 700 mL MeOH was stirred under H2 at 50 psi for 1.5 h. After filtration, the filtrate was concentrated to give 1-((4-amino-2-methoxyphenoxy)methyl)-3,3-difluorocyclobutanol (28.9 g, 111 mmol, quantitative yield) as a light purple solid. 1H NMR (400 MHz, CD3OD) δ ppm 6.68 (1H, d, J=8.56 Hz), 6.35 (1 H, d, J=2.52 Hz), 6.16 (1 H, dd, J=8.31, 2.52 Hz), 4.77 (3 H, br. s.), 3.78 (2 H, s), 3.68 (3 H, s), 2.68-2.82 (2 H, m), 2.38-2.56 (2 H, m).

reactant | 3,3-difluoro-1-((2-methoxy-4-nitrophenoxy)methyl)cyclobutanol | 111 mmol, 32.0 g | FC1(CC(C1)(O)COC1=C(C=C(C=C1)[N+](=O)[O-])OC)F | C12H13F2NO5
solvent | MeOH | 700 mL | CO | CH4O
catalyst | Pd/C | 1.879 mmol, 2.0 g | [Pd] | Pd
product | 1-((4-amino-2-methoxyphenoxy)methyl)-3,3-difluorocyclobutanol | 111 mmol, 28.9 g, quantitative yield | NC1=CC(=C(OCC2(CC(C2)(F)F)O)C=C1)OC | C12H15F2NO3
